US06716863B2
(ii) 4-{3-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]propyl}phenol
Using 2-(1-{3-[4-(benzyloxy)phenyl]propyl}-1H-imidazol-2-yl)-1-ethanol (2.53 g) and 10% palladium carbon (0.38 g), the same reaction as Reference Example 11-(v) was carried out to yield the titled compound (1.85 g) as colorless crystals.

reactant | 2-(1-{3-[4-(benzyloxy)phenyl]propyl}-1H-imidazol-2-yl)-1-ethanol | 2.53 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCCN1C(=NC=C1)CCO | C21H24N2O2
catalyst | palladium carbon | 0.38 g | [C].[Pd]
product | 4-{3-[2-(2-hydroxyethyl)-1H-imidazol-1-yl]propyl}phenol | 1.85 g | OCCC=1N(C=CN1)CCCC1=CC=C(C=C1)O | C14H18N2O2
